US04816581
1 g (4.76 mmol) of rac-(Z)-4-[(p-methoxyphenyl)thio]-3-buten-2-ol are dissolved in 50 ml of methylene chloride. whereupon the solution is treated with 0.77 ml (9.5 mmol) of pyridine and cooled to 0° . There is added dropwise thereto a solution of 0.5 ml (7.1 mmol) of acetyl chloride in 10 ml of methylene chloride and the mixture is stirred at 0° for 1 hour. The reaction mixture is washed successively with 50 ml of 1N hydrochloric acid, 50 ml of 5 percent sodium bicarbonate solution and 50 ml of saturated sodium chloride solution, dried over sodium sulphate and evaporated. By chromatography on silica gel with hexane/ethyl acetate (9:1) there is obtained pure rac-4-[[(Z)-3-acetoxy-1-butenyl]thio]anisole; IR: 1735 cm-1.

reactant | rac-(Z)-4-[(p-methoxyphenyl)thio]-3-buten-2-ol | 4.76 mmol, 1 g | COC1=CC=C(C=C1)S\C=C/C(C)O | C11H14O2S
reactant | pyridine | 9.5 mmol, 0.77 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 7.1 mmol, 0.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | rac-4-[[(Z)-3-acetoxy-1-butenyl]thio]anisole | C(C)(=O)OC(\C=C/SC1=CC=C(C=C1)OC)C | C13H16O3S
